US07649002B2
Methyl (2Z)-3-(2,4-difluorophenyl)acrylate
To a solution of 18-crown-6 (30 g, 110 mmol), bis(2,2,2-trifluororethyl) (methoxycarbonylmethyl)phosphonate (6 mL, 28 mmol) in tetrahydrofuran at −78° C. was added potassium hexamethyldisilazide (0.5M in toluene) (50 mL, 25 mmol) followed by 2,4-difluorobenzaldehyde (4 g, 28 mmol). The reaction mixture was stirred at this temperature for 8 hours and slowly warmed to room temperature over 24 hours. The reaction mixture was then poured into a saturated solution of ammonium chloride (200 mL). The phases were separated, the organic phase was dried over magnesium sulfate, filtered and concentrated in vacuo to give the crude residue. Purification of the residue by column chromatography using pentane:ethyl acetate (99:1-98:2) as eluent afforded the desired product as a colourless oil, 5.1 g (91%).

reactant | 18-crown-6 | 110 mmol, 30 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | (methoxycarbonylmethyl)phosphonate | 28 mmol, 6 mL | COC(=O)CP([O-])([O-])=O
reactant | potassium hexamethyldisilazide | 25 mmol, 0.5M, 50 mL | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 2,4-difluorobenzaldehyde | 28 mmol, 4 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Methyl (2Z)-3-(2,4-difluorophenyl)acrylate | FC1=C(C=CC(=C1)F)\C=C/C(=O)OC | C10H8F2O2
